US07091371B2
4-(2-Trifluoromethylphenyl)butan-2-one
200 mg of Raney nickel are added to a solution of 2.05 g of 4-(2-trifluoromethylphenyl)-3-buten-2-one in 100 ml of ethyl acetate and the mixture is stirred under a hydrogen atmosphere and at standard pressure for 7 h. The mixture is subsequently filtered and the filtrate is evaporated under reduced pressure, whereby the title compound is obtained.

reactant | 4-(2-trifluoromethylphenyl)-3-buten-2-one | 2.05 g | FC(C1=C(C=CC=C1)C=CC(C)=O)(F)F | C11H9F3O
catalyst | Raney nickel | 200 mg | [Ni] | Ni
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Trifluoromethylphenyl)butan-2-one | FC(C1=C(C=CC=C1)CCC(C)=O)(F)F | C11H11F3O
